US04495198
Preparation of 7-(3-Ethylamino-2-hydroxypropoxy) flavone hydrochloride
According to Method B, the title compound was synthesized from the reaction of 7-(2,3-epoxypropoxy) flavone and 70% aqueous ethylamine followed by treatment with HCl/EtOH, as white prisms, m.p. 244°-46° (MeOH) in 36% yield. The free base was obtained after column purification as white crystals, m.p. 164°-65° (MeOH/ehter), yield 39%.

reactant | 7-(2,3-epoxypropoxy) flavone | O1C(COC2=CC=C3C(C=C(OC3=C2)C2=CC=CC=C2)=O)C1 | C18H14O4
reactant | ethylamine | C(C)N | C2H7N
reactant | HCl EtOH | Cl.CCO
solvent | MeOH | CO | CH4O
product | 7-(3-Ethylamino-2-hydroxypropoxy) flavone hydrochloride | 36% yield | Cl.C(C)NCC(COC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O)O | InChI=1S/C20H21NO4.ClH/c1-2-21-12-15(22)13-24-16-8-9-17-18(23)11-19(25-20(17)10-16)14-6-4-3-5-7-14;/h3-11,15,21-22H,2,12-13H2,1H3;1H
